US08629158B2
b) 5-((5-Fluoropyridin-2-yl)methoxy)pyridazin-3(2H)-one (CAS Registry Number 1008518-12-4)(WO 2008/022979 to Stenkamp et al., which is hereby incorporated by reference in its entirety)
5-((5-Fluoropyridin-2-yl)methoxy)-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one (1.1 g, 3.6 mmol) was stirred in MeOH (5 mL) and 2 N HCl in Et2O (20 mL) was added. After 16 h, the mixture was diluted with Et2O (100 mL), and the solid was filtered off. The solid was stirred in NaHCO3 solution (15 mL) for 15 minutes and then refiltered to provide the title compound (620 mg, 78%) as a pink solid: 1H NMR (300 MHz, DMSO-d6) δ 12.69 (s, 1H), 8.60 (d, J=2.8 Hz, 1H), 7.85-7.78 (td, J=8.7, 2.9 Hz, 1H), 7.76 (d, J=2.7 Hz, 1H), 7.67-7.63 (dd, J=8.6, 4.5 Hz, 1H), 6.31 (s, 1H), 5.25 (s, 2H).

reactant | 5-((5-Fluoropyridin-2-yl)methoxy)-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one | 3.6 mmol, 1.1 g | FC=1C=CC(=NC1)COC1=CC(N(N=C1)C1OCCCC1)=O | C15H16FN3O3
reactant | HCl | 2 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 5-((5-Fluoropyridin-2-yl)methoxy)pyridazin-3(2H)-one | 620 mg, 78% | FC=1C=CC(=NC1)COC1=CC(NN=C1)=O | C10H8FN3O2
